US07521447B2
Step B: (S)-2-Amino-4-piperidin-1-yl-butyric acid methyl ester dihydrochloride:
HCl (0.45 mL of 4M in dioxane) was added to (S)-2-tert-Butoxycarbonylamino-4-piperidin-1-yl-butyric acid methyl ester and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and dried under high vacuum for 16 hours to provide the product (46% yield).

reactant | HCl | 4M, 0.45 mL | Cl | ClH
reactant | (S)-2-tert-Butoxycarbonylamino-4-piperidin-1-yl-butyric acid methyl ester | COC([C@H](CCN1CCCCC1)NC(=O)OC(C)(C)C)=O | C15H28N2O4
product | (S)-2-Amino-4-piperidin-1-yl-butyric acid methyl ester dihydrochloride | 46% yield | Cl.Cl.COC([C@H](CCN1CCCCC1)N)=O | InChI=1S/C10H20N2O2.2ClH/c1-14-10(13)9(11)5-8-12-6-3-2-4-7-12;;/h9H,2-8,11H2,1H3;2*1H/t9-;;/m0../s1
